US04470989
1.2 1-Carbethoxy-4-(2-amino-4-chloroanilino)-piperidine
A solution of 59 g of 1-carbethoxy-4-(2-nitro-4-chloroanilino)-piperidine in 270 ml of tetrahydrofuran and 96 ml of absolute ethanol was hydrogenated under normal pressure and at room temperature, using 15 g of Raney nickel as a catalyst. When the uptake of hydrogen had ended, the mixture was filtered and the filtrate was evaporated. Melting point: 150° C.

reactant | 1-carbethoxy-4-(2-nitro-4-chloroanilino)-piperidine | 59 g | C(=O)(OCC)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C14H18ClN3O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
solvent | ethanol | 96 ml | C(C)O | C2H6O
catalyst | Raney nickel | 15 g | [Ni] | Ni
product | 1-Carbethoxy-4-(2-amino-4-chloroanilino)-piperidine | C(=O)(OCC)N1CCC(CC1)NC1=C(C=C(C=C1)Cl)N | C14H20ClN3O2
